US07001900B2
A solution of 8-methoxy-2-naphthyl trifluoromethanesulfonate (871 mg, 2.8 mmol) in DMF (4 mL) is degassed by repeatedly evacuating the flask then flushing with N2. Zinc cyanide (200 mg, 1.7 mmol) is added followed by Pd(PPh3)4 (165 mg, 0.14 mmol). The resulting mixture is again degassed and heated to 80° C. for 3 hours. The reaction is allowed to cool, poured into water and washed four times with ether. The combined organic extracts are dried (Na2SO4), filtered, and concentrated. The resulting material is purified by column chromatography (step gradient, 10–30% CH2Cl2 in hexanes) to give 8-methoxy-2-naphthonitrile as a white solid (493, 84%). HRMS (EI) calculated for C12H9NO: 183.0684, found 183.0681.

reactant | 8-methoxy-2-naphthyl trifluoromethanesulfonate | 2.8 mmol, 871 mg | FC(S(=O)(=O)OC1=CC2=C(C=CC=C2C=C1)OC)(F)F | C12H9F3O4S
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 1.7 mmol, 200 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.14 mmol, 165 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-methoxy-2-naphthonitrile | COC=1C=CC=C2C=CC(=CC12)C#N | C12H9NO
